US09399640B2
Step 2. 4-[4-(Cyclopropylmethoxy)-1-methyl-1H-indazol-5-yl]-6-methyl-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one
Trifluoroacetic acid (0.564 mL) was added dropwise to a solution of 4-[4-(cyclopropylmethoxy)-1-methyl-1H-indazol-5-yl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one (0.0549 g, 0.114 mmol) in methylene chloride (0.564 mL) and the resultant reaction mixture was stirred at RT for 30 min. The reaction mixture was concentrated in vacuo to yield a crude residue. The crude residue was dissolved in methanol (1.00 mL), followed by dropwise addition of 15.0 M solution of ammonium hydroxide in water (0.250 mL, 3.76 mmol). The resultant reaction mixture was stirred at RT for 30 min. The reaction mixture was purified via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water 0.1% ammonium hydroxide, at flow rate of 60 mL/min) to give the desired product (26.8 mg, 67%). 1H NMR (500 MHz, DMSO-d6) δ 14.00 (br s, 1H), 8.23 (s, 1H), 7.72 (s, 1H), 7.38 (d, J=8.5 Hz, 1H), 7.33 (d, J=8.5 Hz, 1H), 7.28 (s, 1H), 4.05 (d, J=6.8 Hz, 2H), 4.03 (s, 3H), 3.58 (s, 3H), 1.23-0.81 (m, 1H), 0.51-0.26 (m, 2H), 0.25-0.01 (m, 2H); LCMS calculated for C19H20N5O2 (M+H)+: m/z=350.2. found: 350.1.

reactant | Trifluoroacetic acid | 0.564 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[4-(cyclopropylmethoxy)-1-methyl-1H-indazol-5-yl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one | 0.114 mmol, 0.0549 g | C1(CC1)COC1=C2C=NN(C2=CC=C1C=1C2=C(C(N(C1)C)=O)N(N=C2)COCC[Si](C)(C)C)C | C25H33N5O3Si
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | water | 3.76 mmol, 0.250 mL | O | H2O
solvent | methylene chloride | 0.564 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 1.00 mL | CO | CH4O
product | 4-[4-(Cyclopropylmethoxy)-1-methyl-1H-indazol-5-yl]-6-methyl-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one | 26.8 mg, 67% | C1(CC1)COC1=C2C=NN(C2=CC=C1C=1C2=C(C(N(C1)C)=O)NN=C2)C | C19H19N5O2
